US06376726B1
Naphthalene (13.62 g), Zn2+ montmorillonite (0.25 g) and CCl4 were stirred in 50 ml two-necked round-bottomed flask equipped with Dean-Stark apparatus. Fuming nitric acid (5 ml) was added dropwise into the reaction mixture. The reaction mixture was heated to reflux where upon the required amount of liberated water is collected in the Dean-Stark apparatus which usually takes 1 hr. Later on, the catalyst was filtered and the organic layer is concentrated to obtain 1-nitronaphthalene.

reactant | Naphthalene | 13.62 g | C1=CC=CC2=CC=CC=C12 | C10H8
reactant | CCl4 | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | nitric acid | 5 ml | [N+](=O)(O)[O-] | HNO3
solvent | water | O | H2O
product | 1-nitronaphthalene | Yield:−74% | [N+](=O)([O-])C1=CC=CC2=CC=CC=C12 | C10H7NO2
